US08440710B2
nitro-4-(3,3,3-trifluoro-propoxy)-benzene (1.4 g) in methanol (50 ml) was hydrogenated over Pd/C at RT and at atmospheric pressure for 12 h. The catalyst was filtered off and the solvent was removed in vacuo to give the desired 4-(3,3,3-trifluoro-propoxy)-phenylamine (0.45 g) as a light brown solid. MS (ESI, m/e): 206.1 (MH+).

reactant | nitro-4-(3,3,3-trifluoro-propoxy)-benzene | 1.4 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCC(F)(F)F | C9H8F3NO3
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(3,3,3-trifluoro-propoxy)-phenylamine | 0.45 g | FC(CCOC1=CC=C(C=C1)N)(F)F | C9H10F3NO
